US05352784
A solution containing ethyl 2-oxocyclopentanecarboxylate (90 g, 0.63 moles), urethane (63.1 g, 0.70 mole) and p-toluenesulfonic acid (1 g) in benzene (100 mL) was refluxed for 15 hours in a Soxhlet extraction apparatus with sodium sulfate in the thimble. The reaction mixture was washed with water (3×100 mL), dried over magnesium sulfate then evaporated under vacuum. The resulting residue was recrystallized from methanol:water (9:1) to provide 92.1 g of ethyl 2-[(ethoxycarbonyl)amino]-1-cyclopentene-1-carboxylate as a white solid, m.p. 49°-51° C.

reactant | ethyl 2-oxocyclopentanecarboxylate | 0.63 moles, 90 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | urethane | 0.70 mole, 63.1 g | NC(=O)OCC | C3H7NO2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | ethyl 2-[(ethoxycarbonyl)amino]-1-cyclopentene-1-carboxylate | 92.1 g | C(C)OC(=O)NC1=C(CCC1)C(=O)OCC | C11H17NO4
